US08003785B2
A mixture of 0.093 g (0.23 mmole) of 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-11), 0.093 g (0.92 mmole) of triethylamine, 0.133 g (0.35 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 5 mL of dimethylformamide was stirred for 15 minutes and then 0.070 g (0.35 mmole) of 4-amino-1-piperidinecarboxylic acid 1,1-dimethylethyl ester was added. The mixture was stirred for 3 hours, then taken up in 50 mL of dichloromethane and washed twice with 100 mL of water and then 100 mL of brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexane-ethyl acetate (gradient 50:50-0:100) to give 0.075 g of 4-[4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.23 mmole, 0.093 g | C1(CCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C19H19F2N5O3
reactant | triethylamine | 0.92 mmole, 0.093 g | C(C)N(CC)CC | C6H15N
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.35 mmole, 0.133 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | 4-amino-1-piperidinecarboxylic acid 1,1-dimethylethyl ester | 0.35 mmole, 0.070 g | CC(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.075 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCC2)N1)=O | C29H37F2N7O4
